US05877197
N-[(1, 3-Dimethyl-indole-2-carbonyl) -Valinyl]-3-amino-5-(2,6-dichlorobenzoyl)oxy-4-oxo-pentanoic acid, t-butyl ester
To a mixture of 2,6-dichlorobenzoic acid (0.023 g, 0.12 mmol) and potassium fluoride (0.015 g, 0.25 mmol) at room temperature under nitrogen was added N-[(1,3-dimethyl-indole-2-carbonyl)valinyl]-3-amino-5-bromo-4-oxo-pentanoic acid, tert-butyl ester (0.054 g, 0.10 mmol) in one portion. After stirring at room temperature for further 16 hrs, the mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, saturated NaHCO3 solution, and brine, dried over sodium sulfate, and concentrated. Trituration with ether gave the title compound as a white powder (0.051 g, 79%). TLC(CH2Cl2 /MeOH, 95/5): Rf =0.88.

reactant | 2,6-dichlorobenzoic acid | 0.12 mmol, 0.023 g | ClC1=C(C(=O)O)C(=CC=C1)Cl | C7H4Cl2O2
reactant | potassium fluoride | 0.25 mmol, 0.015 g | [F-].[K+]
reactant | N-[(1,3-dimethyl-indole-2-carbonyl)valinyl]-3-amino-5-bromo-4-oxo-pentanoic acid, tert-butyl ester | 0.10 mmol, 0.054 g | CN1C(=C(C2=CC=CC=C12)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CBr)=O | C25H34BrN3O5
product | N-[(1, 3-Dimethyl-indole-2-carbonyl) -Valinyl]-3-amino-5-(2,6-dichlorobenzoyl)oxy-4-oxo-pentanoic acid, t-butyl ester | 0.051 g, 79% | CN1C(=C(C2=CC=CC=C12)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC(C1=C(C=CC=C1Cl)Cl)=O)=O | C32H37Cl2N3O7
